US08138189B2
Step 2: 2-(2-Chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-ethanone
2-Chloro-N-methoxy-N-methyl-isonicotinamide (24.6 g, 0.127 mol) and 1-bromomethyl-2-chloro-4-methoxy-benzene [CAS Reg. No. 54788-17-9] (34.7 g, 0.147 mol) were dissolved in THF (720 ml), cooled down to −72° C. and treated over a period of 1.3 h with 1.6 M n-BuLi in hexanes (157 ml, 0.251 mol) without exceeding −70° C. The reaction mixture was stirred at −72° C. for 15 min, warmed up to −20° C. (duration: 35 min) and treated with saturated aqueous NH4Cl (400 ml). After 5 min, the reaction mixture was extracted twice with ethyl acetate. The combined organic phases were washed with saturated aqueous NH4Cl, dried over MgSO4, filtered off and concentrated in vacuo to yield an orange oil (46.5 g). The residue was purified by flash chromatography (600 g silica gel, ethyl acetate/heptane 1:1) to give the title compound as orange viscous oil (17.1 g). MS (m/e, neg. ion)=294.2 [M−H+].

reactant | 2-Chloro-N-methoxy-N-methyl-isonicotinamide | 0.127 mol, 24.6 g | ClC=1C=C(C(=O)N(C)OC)C=CN1 | C8H9ClN2O2
reactant | 1-bromomethyl-2-chloro-4-methoxy-benzene | BrCC1=C(C=C(C=C1)OC)Cl | C8H8BrClO
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
solvent | THF | 720 ml | C1CCOC1 | C4H8O
product | 2-(2-Chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-ethanone | 46.5 g | ClC1=C(C=CC(=C1)OC)CC(=O)C1=CC(=NC=C1)Cl | C14H11Cl2NO2
